US06294532B1
A solution of 6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy-3,4-dihydroquinazolin-4-one (909 mg, 3.14 mmol) in thionyl chloride (12 ml) containing DMF (0.5 ml) was refluxed for I hour. After cooling toluene was added and the volatiles were removed by evaporation. The residue was partitioned between methylene chloride and water and the aqueous layer was adjusted to pH8 with sodium hydrogen carbonate. The organic layer was separated, washed with brine, dried (MgSO4), filtered and evaporated. The residue was purified by flash chromatography eluting with methylene chloride/methanol (95/5 followed by 85/15). The residue was triturated with ether, collected by filtration and dried under vacuum to give 4-chloro-6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxyquinazoline (638 mg, 66%).

reactant | 2-(pyrrolidin-1-yl)ethoxy-3,4-dihydroquinazolin-4-one | 3.14 mmol, 909 mg | N1(CCCC1)CCOC1=NC2=CC=CC=C2C(N1)=O | C14H17N3O2
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | thionyl chloride | 12 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(pyrrolidin-1-yl)ethoxyquinazoline | 638 mg, 66% | N1(CCCC1)CCOC1=NC2=CC=CC=C2C=N1 | C14H17N3O
